US08580800B2
Ethyl 4-(4-cyanophenyl)-1-[4-fluoro-3-(trifluoromethyl)phenyl]-6-(bromomethyl)-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylate
Ethyl 4-(4-cyanophenyl)-1-[4-fluoro-3-(trifluoromethyl)phenyl]-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylate (447 mg, 1.0 mmol) was dissolved in chloroform (10 ml) and bromine (176 mg, 1.10 mmol) was added at 0° C. The ice bath was removed and the mixture was stirred at room temperature for 0.5 h. The reaction mixture was then diluted with chloroform (20 ml) and washed successively with 10% strength aqueous sodium thiosulphate solution (10 ml) and concentrated aqueous sodium chloride solution (10 ml). The organic phase was separated off, dried over sodium sulphate, filtered and concentrated on a rotary evaporator. This gave 570 mg (quant.) of the target compound which was reacted further without further purification.

reactant | Ethyl 4-(4-cyanophenyl)-1-[4-fluoro-3-(trifluoromethyl)phenyl]-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylate | 1.0 mmol, 447 mg | C(#N)C1=CC=C(C=C1)C1NC(N(C(=C1C(=O)OCC)C)C1=CC(=C(C=C1)F)C(F)(F)F)=O | C22H17F4N3O3
reactant | bromine | 1.10 mmol, 176 mg | BrBr | Br2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 4-(4-cyanophenyl)-1-[4-fluoro-3-(trifluoromethyl)phenyl]-6-(bromomethyl)-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylate | C(#N)C1=CC=C(C=C1)C1NC(N(C(=C1C(=O)OCC)CBr)C1=CC(=C(C=C1)F)C(F)(F)F)=O | C22H16BrF4N3O3
